US08426540B2
Using 2-aminophenol and 5-(4-nitrophenyl)furan-2-carbaldehyde, 3.62 g of 2-{[5-(4-nitrophenyl)furan-2-yl]methyleneamino}phenol were obtained as a yellow powder (yield 98%).

reactant | 2-aminophenol | NC1=C(C=CC=C1)O | C6H7NO
reactant | 5-(4-nitrophenyl)furan-2-carbaldehyde | [N+](=O)([O-])C1=CC=C(C=C1)C1=CC=C(O1)C=O | C11H7NO4
product | 2-{[5-(4-nitrophenyl)furan-2-yl]methyleneamino}phenol | 3.62 g | [N+](=O)([O-])C1=CC=C(C=C1)C1=CC=C(O1)C=NC1=C(C=CC=C1)O | C17H12N2O4
